US07732456B2
(5) Preparation of 4-benzyloxy-1-{4-[2-(dimethylamino)ethoxy]phenyl}-1H-pyridin-2-one
4-Benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one (150 mg, 0.511 mmol), 2-(dimethylamino)ethanol (0.057 mL, 0.562 mmol), triphenylphosphine (269 mg, 1.02 mmols) and diethyl azodicarboxylate (0.163 mL, 1.02 mmols) were stirred overnight in THF (4 mL). Concentrating the reaction liquid under reduced pressure, the resulting residue was purified on silica gel column chromatography (C-300, methanol: chloroform=1:20-1:10) to provide the title compound (124 mg, 60%).

reactant | 4-Benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one | 0.511 mmol, 150 mg | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C(C=C1)O)=O | C18H15NO3
reactant | 2-(dimethylamino)ethanol | 0.562 mmol, 0.057 mL | CN(CCO)C | C4H11NO
reactant | triphenylphosphine | 1.02 mmols, 269 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.02 mmols, 0.163 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-benzyloxy-1-{4-[2-(dimethylamino)ethoxy]phenyl}-1H-pyridin-2-one | 124 mg, 60% | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C(C=C1)OCCN(C)C)=O | C22H24N2O3
